US04558046
2-amino-4-methyl-thiazole-5-carboxylic acid, ethyl ester (10 g) was reacted with ethyl 2-ethyl-acetoacetate (17 g) in polyphosphoric acid (50 g) under stirring at 100° C. for 4 hours. After cooling, dilution with ice water and neutralization with 35% NaOH, the precipitate was filtered, washed with water until neutral and crystallized from hexane to give 6-ethyl-3,7-dimethyl-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, ethyl ester, m.p. 122°-124° C. (9.9 g) which was reacted with N-bromo succinimide (13.75 g) in benzene (260 ml) at the reflux temperature for 11 hours.

reactant | 2-amino-4-methyl-thiazole-5-carboxylic acid, ethyl ester | 10 g | NC=1SC(=C(N1)C)C(=O)OCC | C7H10N2O2S
reactant | ethyl 2-ethyl-acetoacetate | 17 g | C(C)C(C(=O)OCC)C(=O)C | C8H14O3
product | 6-ethyl-3,7-dimethyl-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, ethyl ester | C(C)C1=C(N=C2N(C1=O)C(=C(S2)C(=O)OCC)C)C | C13H16N2O3S
